US05491164
Step B: N-[2(R)-Amino-3-mercaptopropyl]-L-proline-2,3-dimethylphenylamide
N-[2(R)-t-butoxycarbonylamino-3-triphenylmethylmercapto-propyl]-L-proline-2,3-dimethylphenyl amide (0.124 g, 0.19 mmol) was dissolved in CH2Cl2 (3 mL) and CF3CO2H (1 mL) at ambient temperature, treated with triethylsilane (0.121 mL, 0.76 mmol) and stirred for 2 h. Thereaction mixture was concentrated, triturated with 0.1% aq TFA soln, the solid precipitate filtered off, and the filtrate lyophilized to provide the title compound. 1H NMR (CD3OD) δ 7.10 (s, 3H), 3.55-3.68 (m, 1H), 3.32-3.45 (m, 2H), 2.75-3.19 (m, 5H), 2.5-2.65 (m, 1H),2.31 (s, 3H), 2.15 (s, 3H), 1.9-2.15 (m, 3H).

reactant | N-[2(R)-t-butoxycarbonylamino-3-triphenylmethylmercapto-propyl]-L-proline-2,3-dimethylphenyl amide | 0.19 mmol, 0.124 g | CC1=C(C=CC=C1C)NC([C@H]1N(CCC1)C[C@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C40H47N3O3S
reactant | CF3CO2H | 1 mL | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | triethylsilane | 0.76 mmol, 0.121 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | N-[2(R)-Amino-3-mercaptopropyl]-L-proline-2,3-dimethylphenylamide | CC1=C(C=CC=C1C)NC([C@H]1N(CCC1)C[C@H](CS)N)=O | C16H25N3OS
